data/oMe_Silver.jsonl
{"reaction_id": "NR-116_1-C(C)(C)C_2-c1ccccc1_3-c1ccccc1_4-C(F)(F)F","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(C(C)(C)C)C(c1ccccc1)C(=O)Oc1ccccc1","N#[N+]C(F)(F)F"],"products_smiles": ["C(=O)(Oc1ccccc1)C(=N[NH]C(F)(F)F)c1ccccc1"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)Oc1ccccc1)c1ccccc1)C(C)(C)C","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)Oc1ccccc1)(C(=O)C(C)(C)C)(N=NC(F)(F)F)c1ccccc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)Oc1ccccc1)(C(O)([O-])(C(C)(C)C))(N=NC(F)(F)F)c1ccccc1","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(Oc1ccccc1)C(=N[N-]C(F)(F)F)c1ccccc1","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(Oc1ccccc1)C(=N[NH]C(F)(F)F)c1ccccc1","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
{"reaction_id": "NR-337_1-C#N_2-Br_3-c2ccccc2_4-C_5-c2cccc(C)c2","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C#N)c(Br)c(c2ccccc2)c(C)c1c2cccc(C)c2","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C#N)c(Br)c(c2ccccc2)c(C)c1c2cccc(C)c2"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C#N)c(Br)c(c2ccccc2)c(C)c1c2cccc(C)c2","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C#N)c(Br)c(c2ccccc2)c(C)c1c2cccc(C)c2","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
